US07553836B2
Step B. Preparation of 2-(2-methoxy-4-nitrophenoxy)-1-(pyrrolidin-1-yl)ethanone
To a stirred solution of DMF (20 mL) containing 2-hydroxy-1-(pyrrolidin-1-yl)ethanone (2.00 g, 15.5 mmol) under N2 was added 60% NaH/paraffin (640 mg, 16 mmol). Once gas evolution ceased, 2-chloro-5-nitroanisole (1.9 g, 10 mmol) was added. After stirring for 18 hr at 20°, the reaction was diluted with H2O prior to being extracted with EtOAc 3×. The organic layers were washed twice with aq. Na2CO3, brine and dried over Na2SO4 prior to concentration. Chromatography on silica gel using 25% EtOAc/CH2Cl2 eluted 2.06 g of 2-(2-methoxy-4-nitrophenoxy)-1-(pyrrolidin-1-yl)ethanone (52%). 1H NMR (DMSO-d6) δ 1.73-1.79 (m, 2H), 1.86-1.92 (m, 2H), 3.29-3.32 (m, 2H), 3.43-3.46 (m, 2H), 3.04 (s, 3H), 4.93 (s, 2H), 7.02 (d, J=8.80 Hz, 1H), 7.73 (d, J=2.74 Hz, 1H), 7.84 (dd, J=8.80 Hz, 2.20 Hz, 1H); 13C NMR (DMSO-d6) δ 23.22, 25.35, 44.27, 45.30, 55.76, 66.23, 106.35, 111.93, 116.99, 140.51, 148.25, 153.28, 164.33; HPLC a) column: Phenomenex C18 4.6×50 mm, 4 min gradient, 10% MeOH/90% H2O/0.2% H3PO4 to 90% MeOH/10% H2O/0.2% H3PO4; 1 min hold, 4 mL/min UV detection at 220 nm, 2.24 min retention time, (100%); HPLC b) column: Phenomenex C18 4.6×50 mm, 4 min gradient, 10% MeOH/90% H2O/0.1% TFA to 90% MeOH/10% H2O/0.1% TFA, 1 min hold; 4 mL/min, UV detection at 220 nm, 2.29 min retention time; MS (ES): m/z 281 (M+H)+.

reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
reactant | 2-hydroxy-1-(pyrrolidin-1-yl)ethanone | 15.5 mmol, 2.00 g | OCC(=O)N1CCCC1 | C6H11NO2
reactant | 2-chloro-5-nitroanisole | 10 mmol, 1.9 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])OC | C7H6ClNO3
solvent | H2O | O | H2O
product | 2-(2-methoxy-4-nitrophenoxy)-1-(pyrrolidin-1-yl)ethanone | COC1=C(OCC(=O)N2CCCC2)C=CC(=C1)[N+](=O)[O-] | C13H16N2O5
